US06514964B1
Step A: Methyl 2-(2-[(tert-butyl)oxycarbonyl]-8-{[(4-nitrophenyl)methoxy]carbonylamino}-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate
To a stirring solution of methyl 2-{8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate (1 eq) in methylene chloride (0.1 M) was added 4-nitrobenzyl chloroformate (1.1 eq) and triethylamine (5 eq) at room temperature. After stirring for 5 hr, the reaction mixture was diluted with methylene chloride. The organic phase was washed with saturated sodium bicarbonate, brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (20% EtOAc/Hexane). EI-MS m/z 514 (M+H)+.

reactant | methyl 2-{8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate | 1 eq | NC1=CC2=C(C(CCN(C2)C(=O)OC(C)(C)C)CC(=O)OC)C=C1 | C18H26N2O4
reactant | 4-nitrobenzyl chloroformate | 1.1 eq | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 0.1 M | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-[(tert-butyl)oxycarbonyl]-8-{[(4-nitrophenyl)methoxy]carbonylamino}-1H,3H,4H,5H-benzo[e]azepin-5-yl)acetate | C(C)(C)(C)OC(=O)N1CCC(C2=C(C1)C=C(C=C2)NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])CC(=O)OC | C26H31N3O8
